US09056874B2
(±)-2-(1-hydroxy-1-(7-methyl-5-(trifluoromethyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of 2-(7-methyl-1-tosyl-5-(trifluoromethyl)-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and 2-(7-methyl-1-tosyl-5-(trifluoromethyl)-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile using the same procedures as described in Example 64-B and 64-C. 1H NMR (400 MHz, DICHLOROMETHANE-d2 with 5% of METHANOL-d4) δ ppm 9.24 (br. s., 1H) 7.92 (s, 1H) 7.57-7.65 (m, 1H) 7.51-7.55 (m, 1H) 7.47 (s, 1H) 6.99-7.12 (m, 1H) 5.96 (dd, J=3.41, 1.89 Hz, 1H) 2.53 (s, 3H) 2.34 (s, 3H). HRMS calcd. for C20H15F3N4O (M+H)+ 385.1271. found 385.1277.

reactant | 2-(7-methyl-1-tosyl-5-(trifluoromethyl)-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC1=CC(=C(C=2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)C(F)(F)F | C32H31F3N4O4SSi
reactant | 2-(7-methyl-1-tosyl-5-(trifluoromethyl)-1H-indole-4-carbonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | CC1=CC(=C(C=2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)C(F)(F)F | C32H31F3N4O4SSi
product | (±)-2-(1-hydroxy-1-(7-methyl-5-(trifluoromethyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C)(C1=C2C=CNC2=C(C=C1C(F)(F)F)C)C1=NC2=C(N1)C=CC(=C2)C#N | C20H15F3N4O
